US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (10 g), a 2M ethanolic solution of sodium ethylate (26 cc) and ethyl 2-(1-naphthyl)acetate (7.5 g) in ethanol (100 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (80:20 by volume), diethyl 2-dimethylamino-5-(1-naphthyl)-2,4-hexadienedioate (2.2 g) is obtained in the form of a yellow oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 10 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 26 cc | CC[O-].[Na+]
reactant | ethyl 2-(1-naphthyl)acetate | 7.5 g | C1(=CC=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | diethyl 2-dimethylamino-5-(1-naphthyl)-2,4-hexadienedioate | 2.2 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)C1=CC=CC2=CC=CC=C12)C | C22H25NO4
